US06924278B2
A mixture of (3R)-3-ethylmorpholine hydrochloride (0.2 g), 1,4-dichloro-2-butyne (0.5 ml) and potassium carbonate (0.71 g) in N,N-dimethylformamide (10 ml) was stirred at room temperature for 2 hours. After removal of the solvent, ethyl acetate and sodium hydrogen carbonate solution were added thereto. The organic layer was separated and the aqueous layer was extracted with ethyl acetate twice. The combined organic layer was dried over magnesium sulfate and evaporated in vacuo. The residue was purified by column chromatography on silica gel with a mixture of ethyl acetate and n-hexane (1:1) as an eluent to give (3R)-4-(4-chloro-2-butynyl)-3-ethylmorpholine (0.2 g) as an oil.

reactant | (3R)-3-ethylmorpholine hydrochloride | 0.2 g | Cl.C(C)[C@H]1NCCOC1
reactant | 1,4-dichloro-2-butyne | 0.5 ml | ClCC#CCCl | C4H4Cl2
reactant | potassium carbonate | 0.71 g | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | (3R)-4-(4-chloro-2-butynyl)-3-ethylmorpholine | 0.2 g | ClCC#CCN1[C@@H](COCC1)CC | C10H16ClNO
